US05284847
7-Cyclopropylthieno(2,3-b)pyrazine-2,3(1H,4H)-dione
A mixture of di-t-butyl 4-cyclopropylthiophene-2,3-dicarbamate (1.66 g, 4.7 mmol), diethyl oxalate (20 ml, 146 mmol) and glacial acetic acid (20 ml) was refluxed for 12 h. The mixture was concentrated in vacuo and the residue recrystallized from glacial acetic acid to afford 460 mg (72%) of the title compound. M.p.>250° C. 1H-NMR (DMSO-d6, δ): 0.6 (m, 2H), 0.85 (m, 2H), 2.0 (m, 1H), 6.55 (s, 1H), 12.0 (s, 1H), 12.2 (s, 1H).

reactant | di-t-butyl 4-cyclopropylthiophene-2,3-dicarbamate | 4.7 mmol, 1.66 g | C1(CC1)C=1C(=C(SC1)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C17H26N2O4S
reactant | diethyl oxalate | 146 mmol, 20 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 7-Cyclopropylthieno(2,3-b)pyrazine-2,3(1H,4H)-dione | 460 mg, 72% | C1(CC1)C1=CSC=2NC(C(NC21)=O)=O | C9H8N2O2S
